US07799775B2
A mixture of 3.96 g 1,7-dichloroisoquinoline and 10.50 g of benzylpiperazine was stirred at 150° C. for 3 hours. To the residue water was added, followed by extraction with chloroform, washing with saturated aqueous sodium hydrogencarbonate solution and drying over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, the residue was purified on silica gel column chromatography (ethyl acetate) to provide 4.78 g (71%) of 1-(4-benzylpiperazin-1-yl)-7-chloroisoquinoline.

reactant | 1,7-dichloroisoquinoline | 3.96 g | ClC1=NC=CC2=CC=C(C=C12)Cl | C9H5Cl2N
reactant | benzylpiperazine | 10.50 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | water | O | H2O
product | 1-(4-benzylpiperazin-1-yl)-7-chloroisoquinoline | 4.78 g, 71% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)Cl | C20H20ClN3
